US04808579
N-(t-Butyloxycarbonyl)-L-serine-2-(diphenylmethylene)hydrazide; (3a)
A solution of 20.0 g (0.10 mole) of t-butyloxycarbonyl-L-serine, 19.6 g (0.10 mole) of benzophenone hydrazone, and 24.7 g of 2-ethoxy-1(2H)-quinolinecarboxylic acid ethyl ester in 250 ml of methylene chloride was stirred at room temperature for 16 hours. The solution was extracted with successive 100 ml portions of 1N hydrochloric acid, water, saturated sodium bicarbonate solution, water and brine, then dried over magnesium sulfate. The solvent was evaporated in vacuo and the resulting syrup was dissolved in ethyl acetate and crystallized by the addition of hexane to afford 24.5 g (64%) of product, mp 150.0°-152.5° C.

reactant | t-butyloxycarbonyl-L-serine | 0.10 mole, 20.0 g | C(C)(C)(C)OC(=O)N[C@@H](CO)C(=O)O | C8H15NO5
reactant | benzophenone hydrazone | 0.10 mole, 19.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
reactant | 2-ethoxy-1(2H)-quinolinecarboxylic acid ethyl ester | 24.7 g | C(C)OC(=O)N1C(C=CC2=CC=CC=C12)OCC | C14H17NO3
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | N-(t-Butyloxycarbonyl)-L-serine-2-(diphenylmethylene)hydrazide | 24.5 g, 64% | C1(=CC=CC=C1)C(=NNC([C@@H](NC(=O)OC(C)(C)C)CO)=O)C1=CC=CC=C1 | C21H25N3O4
